US04501746
N-[(3-pyridyl)methyl]-N-cyclohexyl-α-(n-butylthio)acetamide was prepared by the method of Example 2 by reacting 9.5 g. of N-cyclohexyl-[(3-pyridyl)methyl]amine with 7.4 g. of α-(n-butylthio)acetic acid and 9.0 g. of N,N'-dicyclohexylcarbodiimide in 150 ml of toluene. Weight 3.5 g. as an oil.

reactant | N-cyclohexyl-[(3-pyridyl)methyl]amine | C1(CCCCC1)NCC=1C=NC=CC1 | C12H18N2
reactant | α-(n-butylthio)acetic acid | C(CCC)SCC(=O)O | C6H12O2S
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(3-pyridyl)methyl]-N-cyclohexyl-α-(n-butylthio)acetamide | N1=CC(=CC=C1)CN(C(CSCCCC)=O)C1CCCCC1 | C18H28N2OS
